US05098930
Using the procedure described in Example 1, 4-hydroxy-4-[3-(naphth-2-ylmethoxy)phenyl]oxepane was reacted with methyl iodide to give 4-methoxy-4-[3-(naphth-2-ylmethoxy)phenyl]oxepane (36%), m.p. 69°-70° C.

reactant | 4-hydroxy-4-[3-(naphth-2-ylmethoxy)phenyl]oxepane | OC1(CCOCCC1)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C23H24O3
reactant | methyl iodide | CI | CH3I
product | 4-methoxy-4-[3-(naphth-2-ylmethoxy)phenyl]oxepane | 36% | COC1(CCOCCC1)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C24H26O3
